US06515011B2
To stirred ethyl 2-oxo-phenylacetate (1.0 g, 5.6 mmol) under nitrogen atmosphere at ambient temperature was added trimethyl(trifluoromethyl)silane (1.0 mL, 6.73 mmol) and 1.0 TBAF in THF (6.2 mL, 6.2 mmol). This mixture was stirred at ambient temperature for 72 h. To the reaction was added 5N HCl solution (10 mL) and the mixture was stirred at ambient temperature for 18 h. The mixture was partitioned between Et2O and water. The Et2O layer was separated, dried over anhydrous Na2SO4, and filtered. Crude ethyl 2-phenyl-2-hydroxy-3,3,3-trifluoropropanoate was obtained as a yellow oil (0.9 g; HPLC RT=3.30 min, method A; 1H NMR, 400 MHz, CDCl3, 8.2 ppm (d, 1H), 7.78 ppm (m, 1H), 7.4 ppm (m, 3H), 4.4 ppm (m, 2H), 1.35 ppm (t, 3H)).

reactant | ethyl 2-oxo-phenylacetate | 5.6 mmol, 1.0 g | O=C1C(C=CC=C1)CC(=O)OCC | C10H12O3
reactant | trimethyl(trifluoromethyl)silane | 6.73 mmol, 1.0 mL | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | THF | 6.2 mmol, 6.2 mL | C1CCOC1 | C4H8O
solvent | HCl | 5N, 10 mL | Cl | ClH
product | ethyl 2-phenyl-2-hydroxy-3,3,3-trifluoropropanoate | C1(=CC=CC=C1)C(C(=O)OCC)(C(F)(F)F)O | C11H11F3O3
